US04025524
A solution of 10 parts of ethyl 5-{3-[4-azatricyclo(4.3.1.13,8)undecan-4-yl]-1,1-diphenylpropyl}-1,3,4-oxadiazole-2-carboxylate in a minimal amount of diethyl ether is acidified with a solution of hydrogen chloride in 2-propanol. The precipitate which forms is filtered off and recrystallized from a mixture of ethanol and ether to give ethyl 5-{3-[4-azatricyclo(4.3.1.13,8)-undecan-4-yl]-1,1-diphenylpropyl}-1,3,4-oxadiazole-2-carboxylate hydrochloride as yellow-green crystals melting at approximately 199°-200°.

reactant | ethyl 5-{3-[4-azatricyclo(4.3.1.13,8)undecan-4-yl]-1,1-diphenylpropyl}-1,3,4-oxadiazole-2-carboxylate | C12CC3N(CC(CC(C1)C3)C2)CCC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=NN=C(O2)C(=O)OCC | C30H35N3O3
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | hydrogen chloride | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | ethyl 5-{3-[4-azatricyclo(4.3.1.13,8)-undecan-4-yl]-1,1-diphenylpropyl}-1,3,4-oxadiazole-2-carboxylate hydrochloride | Cl.C12CC3N(CC(CC(C1)C3)C2)CCC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=NN=C(O2)C(=O)OCC | InChI=1S/C30H35N3O3.ClH/c1-2-35-28(34)27-31-32-29(36-27)30(24-9-5-3-6-10-24,25-11-7-4-8-12-25)13-14-33-20-23-16-21-15-22(17-23)19-26(33)18-21;/h3-12,21-23,26H,2,13-20H2,1H3;1H
